US07314937B2
2-Fluoro-N-(2-piperidin-1-yl-ethyl)-4-(3-piperidin-1-yl-propoxy)-benzamide:
To a mixture of 2-Fluoro-4-(3-piperidin-1-yl-propoxy)-benzoic acid (70 mg, 0.25 mmol) and 1-(2-aminoethyl)piperidine (450 □L, 0.3 mmol) in DMF (5 mL) was added EDC (58 mg, 0.3 mmol), HOBT (40 mg, 0.3 mmol), and diisopropylethyl amine (52 □1, 0.3 mmol). The mixture was stirred at room temperature overnight. The mixture was partitioned between EtOAc and water. The organic phase was washed with brine, dried (MgSO4), and concentrated. The residue was purified by flash chromatography (Biotage 12 M, elute 90/10/1 CH2Cl2/MeOH/NH4OH) to yield the title compound. MS (ES+) 392.3

reactant | 2-Fluoro-4-(3-piperidin-1-yl-propoxy)-benzoic acid | 0.25 mmol, 70 mg | FC1=C(C(=O)O)C=CC(=C1)OCCCN1CCCCC1 | C15H20FNO3
reactant | 1-(2-aminoethyl)piperidine | 0.3 mmol | NCCN1CCCCC1 | C7H16N2
reactant | EDC | 0.3 mmol, 58 mg
reactant | HOBT | 0.3 mmol, 40 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethyl amine | 0.3 mmol | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-Fluoro-N-(2-piperidin-1-yl-ethyl)-4-(3-piperidin-1-yl-propoxy)-benzamide | FC1=C(C(=O)NCCN2CCCCC2)C=CC(=C1)OCCCN1CCCCC1 | C22H34FN3O2
